US03992440
The starting material is prepared as follows: To the mixture of 3.8 g of 4-(4-acetamidophenylmercapto)-3-amino-5-sulfamoylbenzoic acid, 20 ml of water, 15 ml of ethanol and 2 ml of 4 N aqueous lithium hydroxide, 2.2 g of cyclopropylmethyl bromide are added while stirring and the pH of the mixture adjusted with lithium hydroxide to 7.0 during 24 hours. Thereupon,it is filtered, the filtrate diluted with water, washed with diethyl ether and acidified with concentrated hydrochloric acid. The precipitate formed is filtered off and recrystallized from aqueous ethanol, to yield the 4-(4-acetamidophenylmercapto)-3-cyclopropylmethylamino-5-sulfamoylbenzoic acid melting at 200°-204°.

reactant | 4-(4-acetamidophenylmercapto)-3-amino-5-sulfamoylbenzoic acid | 3.8 g | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)N | C15H15N3O5S2
reactant | water | 20 ml | O | H2O
reactant | lithium hydroxide | 4 N, 2 ml | [OH-].[Li+]
reactant | cyclopropylmethyl bromide | 2.2 g | C1(CC1)CBr | C4H7Br
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(4-acetamidophenylmercapto)-3-cyclopropylmethylamino-5-sulfamoylbenzoic acid | C(C)(=O)NC1=CC=C(C=C1)SC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1CC1 | C19H21N3O5S2
